US07814713B2
5-norbornene-2-allylacetate (5 mL, 30.9 mmol), 5-butylnorbornene (1.2 mL, 6.6 mmol), 5-norbornene-2-carboxylic methylester (1 mL, 6.6 mmol) and toluene (12.4 mL) were charged into a 250 mL Schlenk flask. Pd(OAc)2 (0.66 mg, 2.94 μmol) and [(Cy)3PH][(B(C6F5)4) (5.65 mg, 5.88 μmol) were dissolved in CH2Cl2 (1 mL) and added to the monomer solution. While the reaction mixture was stirred for 18 hours at 90° C., the reaction mixture became viscous. After the reaction was completed, 120 ml of toluene was added to the viscous solution to dilute it. The solution was poured into an excess of ethanol to precipitate a white polymer, which was filtered through a glass funnel, washed with ethanol, and dried in vacuo at 80° C. for 24 hours to yield 5-norbornene-2-allylacetate/5-butylnorbornene/5-norbornene-2-carboxylic methylester polymer (6.45 g: 90.5% by weight based on the total weight of used monomers). The weight average molecular weight (Mw) of the polymer was 211,891 and Mw/Mn was 2.67.

reactant | 5-norbornene 2-allylacetate | 30.9 mmol, 5 mL | C12CCC(C=C1)C2.C(C=C)CC(=O)[O-]
reactant | 5-butylnorbornene | 6.6 mmol, 1.2 mL | C(CCC)C1C2C=CC(C1)C2 | C11H18
reactant | 5-norbornene-2-carboxylic methylester | 6.6 mmol, 1 mL | COC(=O)C1C2C=CC(C1)C2 | C9H12O2
reactant | toluene | 12.4 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 2.94 μmol, 0.66 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | ethanol | C(C)O | C2H6O
product | 5-norbornene 2-allylacetate 5-butylnorbornene 5-norbornene-2-carboxylic methylester | C12CCC(C=C1)C2.C(C=C)CC(=O)[O-].C(CCC)C1C2C=CC(C1)C2.COC(=O)C1C2C=CC(C1)C2 | InChI=1S/C11H18.C9H12O2.C7H10.C5H8O2/c1-2-3-4-10-7-9-5-6-11(10)8-9;1-11-9(10)8-5-6-2-3-7(8)4-6;1-2-7-4-3-6(1)5-7;1-2-3-4-5(6)7/h5-6,9-11H,2-4,7-8H2,1H3;2-3,6-8H,4-5H2,1H3;1-2,6-7H,3-5H2;2H,1,3-4H2,(H,6,7)/p-1
